US07402693B2
The dimethyl fumarate (1224 g, 8.5 mol) and water (4000 ml) were added to a 6-liter flask and irradiated by 365 nm ultraviolet lights at a temperature from 5 to 7° C. for 7 hours. The resultant solid in the flask was vacuum filtered to obtain tetramethyl cyclobutane-1,2,3,4-tetracarboxylate (1224 g, 4.25 mol). According to the NMR spectrum as shown in FIG. 1, dimethyl fumarate was present before the cyclization reaction. It can be observed from FIG. 2 that, after the cyclization reaction, the absorption peak at 6.77 ppm disappeared which means that dimethyl fumarate had been reacted completely. The absorption peak at 3.68 ppm represents the generation of the corresponding cyclobutanetetracarboxylate. FIGS. 1 and 2 prove that the yield of the reaction is almost 100%.

reactant | dimethyl fumarate | 8.5 mol, 1224 g | C(\C=C\C(=O)OC)(=O)OC | C6H8O4
solvent | water | 4000 ml | O | H2O
product | tetramethyl cyclobutane-1,2,3,4-tetracarboxylate | 4.25 mol, 1224 g | C1(C(C(C1C(=O)OC)C(=O)OC)C(=O)OC)C(=O)OC | C12H16O8
